US09108939B2
D: 2-(4-((4-(5-Amino-1H-indazol-1-yl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol
1-(Piperidin-4-yl)-1H-indazol-5-amine (4.85 mmol, 1.05 g), 2-(4-(bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (4.85 mmol, 1.636 g) and potassium carbonate (9.71 mmol, 1.342 g) were combined and stirred in acetonitrile (15 mL) at room temperature for 3 days. The reaction mixture was concentrated under vacuum. The resulting residue was purified by silica chromatography (eluting with a solvent gradient from dichloromethane to 5% methanol/dichloromethane) to afford the title compound (332 mg). MS (ESI) m/z 473.0 [M+H]+

reactant | 1-(Piperidin-4-yl)-1H-indazol-5-amine | 4.85 mmol, 1.05 g | N1CCC(CC1)N1N=CC2=CC(=CC=C12)N | C12H16N4
reactant | 2-(4-(bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 4.85 mmol, 1.636 g | BrCC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C10H7BrF6O
reactant | potassium carbonate | 9.71 mmol, 1.342 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 2-(4-((4-(5-Amino-1H-indazol-1-yl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 332 mg | NC=1C=C2C=NN(C2=CC1)C1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C22H22F6N4O
